US06977260B2
2-(4-{(R)-2-[(E)-4-(3-Chlorophenyl)-3-hydroxy-but-1 enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetamide
Triethylamine (8.8 μL, 0.063 mmol) was added to a solution of (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid (12.4 mg, 0.030 mmol) in CH2Cl2 (0.2 mL). After cooling to 0° C., the reaction mixture was treated with ethyl chloroformate (3.2 μL, 0.033 mmol). After 1 h at 0° C., ammonia (0.5 M in 1,4-dioxane, 0.32 mL, 0.16 mmol) was added and the reaction mixture was allowed to warm to rt. After 18 h at rt, the reaction mixture was treated with saturated aqueous NaHCO3 (5 mL) and extracted with CH2Cl2 (3×5 mL). The combined extracts were dried (Na2SO4), filtered and concentrated in vacuo. Purification of the residue by flash column chromatography on silica gel (5%→20% MeOH/CH2Cl2, gradient) afforded 1.3 mg (11%) of the title compound.

reactant | Triethylamine | 0.063 mmol, 8.8 μL | C(C)N(CC)CC | C6H15N
reactant | (4-{(R)-2-[(E)-4-(3-chlorophenyl)-3-hydroxy-but-1-enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetic acid | 0.030 mmol, 12.4 mg | ClC=1C=C(C=CC1)CC(/C=C/[C@@H]1N(C(CCC1)=O)CCCCOCC(=O)O)O | C21H28ClNO5
reactant | ethyl chloroformate | 0.033 mmol, 3.2 μL | ClC(=O)OCC | C3H5ClO2
reactant | ammonia | 0.16 mmol, 0.5 M, 0.32 mL | N | H3N
reactant | NaHCO3 | 5 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.2 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-{(R)-2-[(E)-4-(3-Chlorophenyl)-3-hydroxy-but-1 enyl]-6-oxo-piperidin-1-yl}-butoxy)-acetamide | 1.3 mg, 11% | ClC=1C=C(C=CC1)CC(/C=C/[C@@H]1N(C(CCC1)=O)CCCCOCC(=O)N)O | C21H29ClN2O4
